US04256898
An 7.8 g. quantity of crude (1R,5S)-2,2,2-trichloroethyl-5-(aminooxy)-2-cyclopentene-1-carbamate is dissolved in 25 ml. of tetrahydrofuran and 6.15 g (25 mm) of 2-(tertbutoxycarbonyloxyimino)-2-phenylacetonitrile and the mixture stirred for 22 hours at room temperature, 20 hours at 50° C., 72 hours at room temperature and then evaporated in vacuo. The residue is chromatographed over 900 g. of silica gel eluted with (15-85) ethylacetate-toluene. Three hundred ml. fractions are collected. The product is found in fractions 10-12. Evaporation and recrystallization of the residue from Skellysolve B yields (1R,5S)-2,2,2-trichloroethyl-5-[[[(t-butyloxy)carbonyl]amino]oxy]-2-cyclopentene-1-carbamate m.p. 83°-84° C. as a white solid.

reactant | (1R,5S)-2,2,2-trichloroethyl-5-(aminooxy)-2-cyclopentene-1-carbamate | ClC(COC(N[C@@H]1C=CC[C@@H]1ON)=O)(Cl)Cl | C8H11Cl3N2O3
reactant | 2-(tertbutoxycarbonyloxyimino)-2-phenylacetonitrile | 6.15 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1R,5S)-2,2,2-trichloroethyl-5-[[[(t-butyloxy)carbonyl]amino]oxy]-2-cyclopentene-1-carbamate | ClC(COC(N[C@@H]1C=CC[C@@H]1ONC(=O)OC(C)(C)C)=O)(Cl)Cl | C13H19Cl3N2O5
